.title Woolly Mammoth

VCC 9 0 DC 9V

R3 9 1 51k
R4 9 2 20k
Q1 1 3 0 Q2N3904 Is=4.639e-15 Bf=160.1 Br=5.944 Vt=0.026
Q2 2 1 5 Q2N3904 Is=4.639e-15 Bf=160.1 Br=5.944 Vt=0.026

R2 3 4 100k
Ppinch 4 8 5 500k 0.5 LIN
Rwire1 8 5 1m

C6 5 6 100e-6
R1 5 0 2.2k
Pwool 6 11 0 2k 0.2 LIN

C1 7 3 0.22e-6
C2 3 0 10e-9

.input 7
.output 1
.warmup 20